US05455260
Dry N-trityl-N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-hydroxyethanamine (8.7 g; 15.7 mmol) is dissolved in THF (50 ml). NaH (1 g; 25 mmol) is added and stirred vigorously at 0° C. for 1 minute then brought to room temperature for 45 minutes. DMPU [1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)pyrimidinone] (5 ml) is added followed by propargyl bromide (80 wt %/toluene; 2.1 ml) and stirred for 48 hours. To this is added 0.6 g NaH and 1.5 ml propargyl bromide. After stirring vigorously, an additional 48 hours the reaction mixture is quenched with MeOH, concentrated and purified by column chromatography using 10 Et3N/10 CH2Cl2 /80 petroleum ether. The product is triturated with ether to give solid N-trityl-N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(prop-2-ynyloxy)ethanamine which is used directly in Step F.

reactant | N-trityl-N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-hydroxyethanamine | 15.7 mmol, 8.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N(CCO)CCOCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C37H34N2O3
reactant | NaH | 25 mmol, 1 g | [H-].[Na+]
reactant | DMPU | 5 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | propargyl bromide | 2.1 ml | C(C#C)Br | C3H3Br
reactant | NaH | 0.6 g | [H-].[Na+]
reactant | propargyl bromide | 1.5 ml | C(C#C)Br | C3H3Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-trityl-N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(prop-2-ynyloxy)ethanamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N(CCOCC#C)CCOCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C40H36N2O3
